US06159901
Production of 4-chloro-6-[3-(trifluoromethyl)phenoxy] picolinic acid (compound No. VI-5)
4-chloro-6-[3-(trifluoromethyl)phenoxy] picolinic acid methyl ester (3.1 g, 0.0093 mol) was dissolved in 40 ml of ethanol. 4 ml of an aqueous solution of sodium hydroxide (0.41 g, 0.0093×1.1 mol) was added to the obtained solution. The resultant mixture was heated and stirred at 60° C. for 20 minutes. Thereafter, the obtained reaction solution was cooled and distilled under reduced pressure to remove ethanol therefrom. The obtained residual solution was treated with concentrated hydrochloric acid so as to adjust the pH thereof to 3. The precipitated solids were filtered out from the above residual solution, washed with water and then dried, thereby obtaining an aimed product.

reactant | 4-chloro-6-[3-(trifluoromethyl)phenoxy] picolinic acid methyl ester | 0.0093 mol, 3.1 g | COC(C1=NC(=CC(=C1)Cl)OC1=CC(=CC=C1)C(F)(F)F)=O | C14H9ClF3NO3
reactant | sodium hydroxide | 1.1 mol, 0.41 g | [OH-].[Na+]
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 4-chloro-6-[3-(trifluoromethyl)phenoxy] picolinic acid | ClC1=CC(=NC(=C1)OC1=CC(=CC=C1)C(F)(F)F)C(=O)O | C13H7ClF3NO3
